US04426538
The catalytic hydrogenation of 2,6-dinitro-3,4-dichlorotoluene with platinum at 45° C. under a hydrogen-pressure of 10 bar in the presence of catalytic amounts of morpholine gives, for example, the 2,6-diamino-3,4-dichlorotoluene in high yields and high purity.

reactant | 2,6-dinitro-3,4-dichlorotoluene | [N+](=O)([O-])C1=C(C(=CC(=C1Cl)Cl)[N+](=O)[O-])C | C7H4Cl2N2O4
reactant | morpholine | N1CCOCC1 | C4H9NO
catalyst | platinum | [Pt] | Pt
product | 2,6-diamino-3,4-dichlorotoluene | NC1=C(C(=CC(=C1Cl)Cl)N)C | C7H8Cl2N2
